US06043254
(a) 2-amino-4-(4-amino-phenyl)-thiazole
Prepared by 2 hours' hydrogenation of 2-amino-4-(4-nitro-phenyl)-thiazole (melting point: 287-291° C.; prepared from ω-bromo-4-nitro-acetophenone and thiourea) in DMF on palladium/charcoal (10%) at 20° C.

reactant | 2-amino-4-(4-nitro-phenyl)-thiazole | NC=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-amino-4-(4-amino-phenyl)-thiazole | NC=1SC=C(N1)C1=CC=C(C=C1)N | C9H9N3S
